US05436257
5-(4-{2-[2-(2-Naphthyl)-2-hydroxyethylamino]-propoxy}benzyl)thiazolidine-2,4-dione
A procedure similar to that described in Preparation 10, below, was followed, but using 520 mg of 2-amino-1-(2-naphthyl)ethanol [prepared as described in Preparation 8], 650 mg of 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione [prepared as described in Preparation 9], 150 ml of benzene, 100 ml of absolute methanol and 1.25 g of sodium borohydride, to give the title compound in crude form. This crude product was then purified by column chromatography through silica gel, using a 5:1 by volume mixture of ethyl acetate and ethanol as the eluent, to give 490 mg of the title compound melting at between 115° C. and 145° C.

reactant | 2-amino-1-(2-naphthyl)ethanol | 520 mg | NCC(O)C1=CC2=CC=CC=C2C=C1 | C12H13NO
reactant | 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione | 650 mg | O=C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C13H13NO4S
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | sodium borohydride | 1.25 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 5-(4-{2-[2-(2-Naphthyl)-2-hydroxyethylamino]-propoxy}benzyl)thiazolidine-2,4-dione | C1=C(C=CC2=CC=CC=C12)C(CNC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O | C25H26N2O4S
